US06107307
3-(quinoxalin-2-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene
A mixture of 2-chloroquinoxaline, 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo[3.2.1]-oct-2-ene, hexamethylditin, lithium chloride, and [tetrakis(triphenylphosphine)]palladium in dioxane is stirred at reflux for 18 hours. The reaction mixture is cooled to room temperature and then poured into a mixture of saturated aqueous potassium fluoride and ethyl acetate. After stirring for two hours, the phases are separated. The organic phase is washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue is subjected to flash silica gel chromatography. Fractions containing product are combined and concentrated under reduced pressure to provide the title compound.

reactant | 2-chloroquinoxaline | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo[3.2.1]-oct-2-ene | FC(S(=O)(=O)OC1=CC2CCC(C1)N2C)(F)F | C9H12F3NO3S
reactant | hexamethylditin | C[Sn](C)C.C[Sn](C)C
reactant | lithium chloride | [Cl-].[Li+]
reactant | potassium fluoride | [F-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(quinoxalin-2-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | N1=C(C=NC2=CC=CC=C12)C1=CC2CCC(C1)N2C | C16H17N3
